US08232273B2
Step 1: Preparation 2-(1-(4-(benzyloxy)phenyl)ethylidene)malononitrile (47A)
Hexamethyldisilazane (2.50 mL, 1.937 g, 12.0 mmol) was added to 1-(4-(benzyloxy)phenyl)ethanone (2.263 g, 10 mmol) in acetic acid (6 mL) at a rate to maintain the internal temperature below 74° C. After the addition was over, malononitrile (1.32 g, 20 mmol) in acetic acid (6 mL) was added to the solution. The reaction was heated at 90 C.° for 12 hours. After cooling, the reaction was poured into ice/water, extracted with EtOAc, dried, and concentrated under reduced pressure to give the crude product. The solid was triturated with 1:9 EtOAc/hexanes to provide 2.74 g of the desired product. 1H NMR (DMSO-d6): δ 7.72-7.75 (m, 2H), 7.35-7.49 (m, 5H), 7.18-7.21 (d, 2H), 5.22 (s, 2H), 2.61 (s, 3H). MS (ESI(+)): m/z 291 (M+NH4).

reactant | Hexamethyldisilazane | 12.0 mmol, 2.50 mL, 1.937 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 1-(4-(benzyloxy)phenyl)ethanone | 10 mmol, 2.263 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C)=O | C15H14O2
reactant | malononitrile | 20 mmol, 1.32 g | C(CC#N)#N | C3H2N2
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 2-(1-(4-(benzyloxy)phenyl)ethylidene)malononitrile | 2.74 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C)=C(C#N)C#N | C18H14N2O
